US04374248
A. 2-[(2-Aminothiazol-4-yl)methylthio]ethylamine dihydrochloride
Cysteamine hydrochloride (5.65 g; 50.0 mmoles) and 2-amino-4-chloromethylthiazole hydrochloride (9.25 g; 50.0 mmoles) were dissolved in 70 ml of concentrated hydrochloric acid and heated at an oil bath temperature of 105°. After 64 hours of heating the mixture was evaporated under reduced pressure and the residue triturated with acetone. The collected product was re-triturated with ethanol, filtered and dried to yield the title compound, mp 170°-200°.

reactant | Cysteamine hydrochloride | 50.0 mmoles, 5.65 g | Cl.NCCS
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 50.0 mmoles, 9.25 g | Cl.NC=1SC=C(N1)CCl
solvent | hydrochloric acid | 70 ml | Cl | ClH
product | 2-[(2-Aminothiazol-4-yl)methylthio]ethylamine dihydrochloride | Cl.Cl.NC=1SC=C(N1)CSCCN | InChI=1S/C6H11N3S2.2ClH/c7-1-2-10-3-5-4-11-6(8)9-5;;/h4H,1-3,7H2,(H2,8,9);2*1H
